US08492401B2
2-(1H-7-Azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium (HATU) (669 mg, 1.8 mmol) was added to a solution of 5-(2-(1,3-dioxolan-2-yl)ethyl)-2-phenylthiazole-4-carboxylic acid (504 mg, 1.7 mmol), DIPEA (613 μL, 3.5 mmol), and 2-(thiazolo[5,4-b]pyridin-2-yl)aniline b (250 mg, 1.1 mmol) in DMF (7 mL). The reaction mixture was stirred for 16 h, poured into sat aq NaHCO3 and extracted with EtOAc. The organic fractions were washed with brine, dried and concentrated. The crude product was crystallized from EtOH to give 5-(2-(1,3-dioxolan-2-yl)ethyl)-2-phenyl-N-(2-(thiazolo[5,4-b]pyridin-2-yl)phenyl)thiazole-4-carboxamide (372 mg, 66% yield).

reactant | 2-(1H-7-Azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium | 1.8 mmol, 669 mg | C[NH3+].F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
reactant | 5-(2-(1,3-dioxolan-2-yl)ethyl)-2-phenylthiazole-4-carboxylic acid | 1.7 mmol, 504 mg | O1C(OCC1)CCC1=C(N=C(S1)C1=CC=CC=C1)C(=O)O | C15H15NO4S
reactant | DIPEA | 3.5 mmol, 613 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(thiazolo[5,4-b]pyridin-2-yl)aniline | N1=C(SC2=NC=CC=C21)C2=C(N)C=CC=C2 | C12H9N3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 5-(2-(1,3-dioxolan-2-yl)ethyl)-2-phenyl-N-(2-(thiazolo[5,4-b]pyridin-2-yl)phenyl)thiazole-4-carboxamide | 372 mg, 66% yield | O1C(OCC1)CCC1=C(N=C(S1)C1=CC=CC=C1)C(=O)NC1=C(C=CC=C1)C=1SC2=NC=CC=C2N1 | C27H22N4O3S2
